US05889012
5-Chloro-6-ethyl-4-[cis-4-(2-hydroxy- 1,1,1-trifluoro-2-propyl)cyclohexylamino]pyrimidine
1.3 g (7.2 mmol) of 4,5-dichloro-6-ethylpyrimidine, 2.7 g (7.2 mmol) of 1-amino-4(2-hydroxy-1,1,1-trifluoro-2-propyl)cyclohexane and 1.5 g (17.1 mmol) of potassium carbonate were stirred in 10 ml of dimethylformamide at from 80° to 90° C. for 6 hours. The solvent was stripped off and the residue was taken up in water/diethyl ether, and the organic phase was washed with water, dried and concentrated. For purification it was chromatographed on silica gel (ethyl acetate). 1.0 g of product was obtained as colorless crystals. m.p.: 119to 121° C.

reactant | 4,5-dichloro-6-ethylpyrimidine | 7.2 mmol, 1.3 g | ClC1=NC=NC(=C1Cl)CC | C6H6Cl2N2
reactant | 1-amino-4(2-hydroxy-1,1,1-trifluoro-2-propyl)cyclohexane | 7.2 mmol, 2.7 g | NC1CCC(CC1)C(C(F)(F)F)(C)O | C9H16F3NO
reactant | potassium carbonate | 17.1 mmol, 1.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water diethyl ether | O.C(C)OCC
product | 5-Chloro-6-ethyl-4-[cis-4-(2-hydroxy- 1,1,1-trifluoro-2-propyl)cyclohexylamino]pyrimidine | 1.0 g | ClC=1C(=NC=NC1CC)N[C@@H]1CC[C@@H](CC1)C(C(F)(F)F)(C)O | C15H21ClF3N3O
